US03960977
A. Potassium ter-butoxide/Et2O
24.5 g (0.05 M) of 4-bromo-penta-2trans-en-1yl triphenylphosphonim bromide [which can be prepared according to the above given procedure] were slowly added to a suspension kept under stirring and in argon atmosphere of 13.5 g (0.12 M) of potassium ter-butoxide in 100 ml of anhydrous ether. The reaction mixture was kept under stirring overnight, whereupon 5 g (0.05 M) of hexanal in 35 ml of anhydrous ether were added thereto at a temperature of ca. 15°-25°. After having been left at 35° for 1 h, the mixture was cooled to room temperature, diluted with 130 ml of hexane, filtered over Celite and the clear filtrate, after washing with a saturated aqueous solution of NH4Cl and drying over magnesium sulphate, was kept 1 day at -20°. A subsequent purification was carried out by column chromatography by using 100 g of silica gel and elution with hexane. By distillation of the residue obtained on evaporation of the volatile portion of the eluate, 2.8 g (37%) of a mixture comprising 44:56 parts by weight of hydrocarbons Ic and Id was obtained.

reactant | potassium ter-butoxide | 0.12 M, 13.5 g | CC(C)([O-])C.[K+]
reactant | hexanal | 0.05 M, 5 g | C(CCCCC)=O | C6H12O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 35 ml | CCOCC | C4H10O
solvent | hexane | 130 ml | CCCCCC | C6H14
product | Potassium ter-butoxide Et2O | 2.8 g, 37% | CC(C)([O-])C.[K+].CCOCC | InChI=1S/C4H9O.C4H10O.K/c1-4(2,3)5;1-3-5-4-2;/h1-3H3;3-4H2,1-2H3;/q-1;;+1
